US04837204
4(S)-t-Butyloxycarbonylamino-5-cyclohexyl-3(R,S)hydroxy-1-pentene
To a stirred 78° C. solution of Boc-cyclohexylalanine methyl ester (10.2 g 35.8 mmol) in dry toluene (60 ml) was added diisobutylaluminum hydride (34 ml of a 1.5M solution in toluene). After 30 min., vinyl magnesium bromide (108 ml of 1M solution in tetrahydrofuran (THF)) was added. After stirring for 15 hours at 0° C., the mixture was carefully quenched with methanol, treated with Rochelle salts (22 ml of saturated aqueous solution in 140 ml H2O), and filtered. After extracting the solids 5 times with ethyl acetate, the extracts and filtrate were combined and the organic phase was washed with brine, dried, filtered and evaporated to an oil (10.2 g). Chromatography on silica gel eluting with hexane/ethyl acetate mixtures provided 6.1 g (60%) of the desired product.

reactant | Boc-cyclohexylalanine methyl ester | 35.8 mmol, 10.2 g | COC([C@@H](N(C1CCCCC1)C(=O)OC(C)(C)C)C)=O | C15H27NO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | vinyl magnesium bromide | 1M, 108 ml | C(=C)[Mg]Br
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4(S)-t-Butyloxycarbonylamino-5-cyclohexyl-3(R,S)hydroxy-1-pentene | 6.1 g, 60% | C(C)(C)(C)OC(=O)N[C@H](C(C=C)O)CC1CCCCC1 | C16H29NO3
